US04054591
Crude 2-amino-6-ethylaminobenzonitrile is prepared by iron reduction of 2-ethylamino-6-nitrobenzonitrile as in Example 1.

reactant | 2-ethylamino-6-nitrobenzonitrile | C(C)NC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C9H9N3O2
catalyst | iron | [Fe] | Fe
product | 2-amino-6-ethylaminobenzonitrile | NC1=C(C#N)C(=CC=C1)NCC | C9H11N3
